US06531502B1
Tetrakis(triphenylphosphine)palladium(0) (0.2 g) was added to a solution of 3-bromo-4-methoxybenzldehyde (1.25 g) in toluene (10 ml) and ethanol (10 ml), followed by addition of 2M aqueous sodium carbonate (11 ml). To this mixture was added pyridine-3-boronic acid propane diol (1 g), and the mixture was heated to reflux. After 2 hours, the reaction was added to water (75 ml) and extracted with ethyl acetate (2×75 ml). The combined organic layers were washed with saturated aqueous sodium bicarbonate (100 ml) and brine (100 ml), dried over magnesium sulfate and concentrated. Chromatography (silica, 20-50% ethyl acetate/hexanes) afforded 1.08 g (87%) of 3-(3-pyridyl)-4-methoxybenzaldehyde as a white solid.

reactant | sodium carbonate | 2M, 11 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | pyridine-3-boronic acid propane diol | 1 g | C(CC)(O)O.N1=CC(=CC=C1)B(O)O
reactant | water | 75 ml | O | H2O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.2 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(3-pyridyl)-4-methoxybenzaldehyde | 1.08 g, 87% | N1=CC(=CC=C1)C=1C=C(C=O)C=CC1OC | C13H11NO2
